US07741327B2
A solution of (S)-4-methyl-2-[4-(naphthalen-1-yloxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-pentanoic acid [1-((R)-2,2-dimethyl-[1,3]dioxolan-4-yl-methyl)-1H-pyrazol-3-yl]-amide (0.43 g, 0.83 mmol) in methanol (8.38 mL) at 25° C. was treated with p-toluenesulfonic acid monohydrate (24 mg, 0.12 mmol). The reaction was stirred at 25° C. overnight. At this time, the reaction was diluted with ethyl acetate (50 mL) and was washed with a saturated aqueous sodium bicarbonate solution (1×100 mL) and a saturated aqueous sodium chloride solution (1×100 mL), dried over sodium sulfate, filtered and concentrated in vacuo. Purification by Analogix flash chromatography (40 g, 2.5-4% methanol/dichloromethane) afforded (S)-4-methyl-2-[4-(naphthalen-1-yloxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-pentanoic acid [1-((R)-2,3-dihydroxy-propyl)-1H-pyrazol-3-yl]-amide (0.32 g, 80%) as an off-white solid: HR-ES-MS m/z calculated for C26H30N4O5 [M+H]+ 479.2289, observed 479.2287; 1H NMR (300 MHz, DMSO-d6) δ ppm 0.91 (d, J=6.3 Hz, 3H), 0.96 (d, J=6.3 Hz, 3H), 1.43-1.67 (m, 2H), 1.71-1.84 (m, 1H), 3.20-3.32 (m, 2H), 3.70-3.82 (m, 1H), 3.87 (dd, J=13.5, 7.5 Hz, 1H), 4.09 (dd, J=13.5, 3.8 Hz, 1H), 4.39 (d, J=18.1 Hz, 1H), 4.66-4.77 (m, 3H), 4.89 (dd, J=10.4, 5.0 Hz, 1H), 4.95 (d, J=5.4 Hz, 1H), 6.43 (d, J=2.1 Hz, 1H), 7.48-7.66 (m, 5H), 7.91 (d, J=8.2 Hz, 1H), 7.99-8.09 (m, 2H), 10.77 (s, 1H).

reactant | (S)-4-methyl-2-[4-(naphthalen-1-yloxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-pentanoic acid [1-((R)-2,2-dimethyl-[1,3]dioxolan-4-yl-methyl)-1H-pyrazol-3-yl]-amide | 0.83 mmol, 0.43 g | CC1(OC[C@H](O1)CN1N=C(C=C1)NC([C@H](CC(C)C)N1C(C=C(C1)OC1=CC=CC2=CC=CC=C12)=O)=O)C | C29H34N4O5
reactant | p-toluenesulfonic acid monohydrate | 0.12 mmol, 24 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 8.38 mL | CO | CH4O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | (S)-4-methyl-2-[4-(naphthalen-1-yloxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-pentanoic acid [1-((R)-2,3-dihydroxy-propyl)-1H-pyrazol-3-yl]-amide | 0.32 g, 80% | O[C@H](CN1N=C(C=C1)NC([C@H](CC(C)C)N1C(C=C(C1)OC1=CC=CC2=CC=CC=C12)=O)=O)CO | C26H30N4O5
